US04894366
To a solution of 14-acetoxy-17-allyl-12-[2-(4-tertbutyl-diphenylsilyloxy-3-methoxycyclohexyl)-1-methylvinyl]-1-hydroxy-23,25-dimethoxy-13,19,21,27tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (43.8 mg) in tetrahydrofuran (1.5 ml) was added potassium carbonate (ca 100 mg) at room temperature and the mixture was stirred at the same temperature for 3 hours. The reaction mixture was diluted with diethyl ether and the resulting solution was washed with a saturated aqueous ammonium chloride, water and an aqueous sodium chloride successively, and dried over sodium sulfate. The resulting solution was concentrated under reduced pressure and the residue was purified on silica gel thin layer chromatography (developing solvent: diethyl ether and hexane, 3:2 v/v) to give 17-allyl-12-[2-(4-tertbutyl-diphenylsilyloxy-3-methoxycyclohexyl)-1methylvinyl]-1-hydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacosa-14,18-diene-2,3,10,16-tetraone (30 mg).

reactant | 14-acetoxy-17-allyl-12-[2-(4-tertbutyl-diphenylsilyloxy-3-methoxycyclohexyl)-1-methylvinyl]-1-hydroxy-23,25-dimethoxy-13,19,21,27tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 43.8 mg | C(C)(=O)OC1C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=CC(C(C1)=O)CC=C)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2(CC(C(CC2)C(C)(C)C)OC)O[SiH](C2=CC=CC=C2)C2=CC=CC=C2)C)C | C62H89NO13Si
reactant | potassium carbonate | ca 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 17-allyl-12-[2-(4-tertbutyl-diphenylsilyloxy-3-methoxycyclohexyl)-1methylvinyl]-1-hydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacosa-14,18-diene-2,3,10,16-tetraone | 30 mg | C(C=C)C1C(C=CC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2(CC(C(CC2)C(C)(C)C)OC)O[SiH](C2=CC=CC=C2)C2=CC=CC=C2)C)C)=O | C60H85NO11Si
